US04318917
c. 2,3-Bis(4-fluorophenyl)-5-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-1H-pyrrole (Example 2)
To a mixture of 0.57 g (0.015 mole) of lithium aluminum hydride in 200 ml ether under nitrogen was added dropwise a solution of 4.03 g (0.01 mole) of 4,5-bis(4-fluorophenyl)-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-2H-pyrrole in 50 ml ether. The mixture was stirred at room temperature for 2 hours, then water was added cautiously dropwise. Finally approximately 50 ml of 1 N HCl was added and the ether layer was separated. The aqueous layer was further extracted with ether. The combined ether layers were dried and concentrated under vacuum. The residue was purified by column chromatography on 450 g slica gel, eluting with 75/25 hexane/toluene to give, after recrystallization from hexane, 1.6 g (40%) of product, m.p. 123°-124°, identical by ir and tlc to product obtained by Method A.

reactant | lithium aluminum hydride | 0.015 mole, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5-bis(4-fluorophenyl)-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-2H-pyrrole | 0.01 mole, 4.03 g | FC1=CC=C(C=C1)C1=CC(N=C1C1=CC=C(C=C1)F)=C(C(F)(F)F)C(F)(F)F | C19H9F8N
reactant | water | O | H2O
reactant | HCl | 1 N, approximately 50 ml | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2,3-Bis(4-fluorophenyl)-5-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-1H-pyrrole | FC1=CC=C(C=C1)C=1NC(=CC1C1=CC=C(C=C1)F)C(C(F)(F)F)C(F)(F)F | C19H11F8N
